US04607123
N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-L-glutamic acid diethyl ester (XXXVIII)
Following the procedure of example 13, 155 g (65%) of product is synthesized from 192 g (0.3 Mol) 3,5-diacetamido-2,4,6-triiodobenzoyl chloride and 108 g (0.45 Mol) L-glutamic acid diethyl ester hydrochloride.

reactant | 3,5-diacetamido-2,4,6-triiodobenzoyl chloride | 0.3 Mol, 192 g | C(C)(=O)NC=1C(=C(C(=O)Cl)C(=C(C1I)NC(C)=O)I)I | C11H8ClI3N2O3
reactant | L-glutamic acid diethyl ester hydrochloride | 0.45 Mol, 108 g | Cl.C(C)OC([C@@H](N)CCC(=O)OCC)=O
product | N-(3,5-diacetamido-2,4,6-triiodobenzoyl)-L-glutamic acid diethyl ester | C(C)OC([C@@H](NC(C1=C(C(=C(C(=C1I)NC(C)=O)I)NC(C)=O)I)=O)CCC(=O)OCC)=O | C20H24I3N3O7
